US09126998B2
8-(Benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid
253 ml of 2 N aqueous sodium hydroxide solution were added to a solution of 15.7 g of ethyl 8-(benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate (50.59 mmol) in 253 ml of 1,4-dioxane, and the mixture was stirred at RT for 14 h. 101 ml of 6 N aqueous hydrochloric acid were then added. The solid formed was filtered off, washed with water and methyl tert-butyl ether and then dried under reduced pressure at 40° C. overnight. This gave 15.49 g (108% of theory) of 8-(benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid.

reactant | sodium hydroxide | 2 N, 253 ml | [OH-].[Na+]
reactant | ethyl 8-(benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 50.59 mmol, 15.7 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)OCC | C18H18N2O3
reactant | hydrochloric acid | 6 N, 101 ml | Cl | ClH
solvent | 1,4-dioxane | 253 ml | O1CCOCC1 | C4H8O2
product | 8-(Benzyloxy)-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)O | C16H14N2O3
